US04546101
A solution of m-chloroperbenzoic acid (9.73 g) in dichloromethane (60 ml) was added dropwise to a solution of benzhydryl 7-phenylacetamido-3-[2-(2-pyridyl)vinyl]-2-cephem-4-carboxylic acid (trans isomer) (27.6 g) in dichloromethane (280 ml) at -25° to -30° C. and the solution was stirred for 10 minutes at the same temperature. The reaction mixture was poured into water (100 ml). The separated organic layer was washed with 2% aqueous sodium bicarbonate and brine, dried over magnesium sulfate and evaporated to give benzhydryl 7-phenylacetamido-3-[2-(2-pyridyl)vinyl]-3-cephem-4-carboxylate-1-oxide (trans isomer) (24.5 g)

reactant | m-chloroperbenzoic acid | 9.73 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | benzhydryl 7-phenylacetamido-3-[2-(2-pyridyl)vinyl]-2-cephem-4-carboxylic acid | 27.6 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)C=1S[C@H]2N(C(C1C=CC1=NC=CC=C1)C(=O)O)C(C2NC(CC2=CC=CC=C2)=O)=O | C35H29N3O4S
reactant | water | 100 ml | O | H2O
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 280 ml | ClCCl | CH2Cl2
product | benzhydryl 7-phenylacetamido-3-[2-(2-pyridyl)vinyl]-3-cephem-4-carboxylate-1-oxide | 24.5 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2=O)C=CC2=NC=CC=C2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C35H29N3O5S
